US06248740B1
Production of [6-[3-[4-(diphenylmethoxy)piperidino]propoxy][1,2,4]triazolo[1,5-b]pyridazin-2-yl]carboxylic acid
1.85 g of isopropyl [6-[3-[4-(diphenylmethoxy) piperidino]propoxy][1,2,4]triazolo[1,5-b]pyridazin-2-yl]carboxylate was dissolved in 18 ml of tetrahydrofuran; 3.8 ml of a 1 N aqueous solution of sodium hydroxide was added, followed by stirring at room temperature for 3.5 hours. After cooling, the mixture was concentrated under reduced pressure; the residue was diluted with water and washed with ethyl acetate; 1 N hydrochloric acid was added to ajust pH 4.5. The mixture was crystallized by the addition of ethanol-acetone (1:2), collected by filtration, washed with water and ethyl acetate and dried to yield 1.33 g of the title compound.

reactant | isopropyl [6-[3-[4-(diphenylmethoxy) piperidino]propoxy][1,2,4]triazolo[1,5-b]pyridazin-2-yl]carboxylate | 1.85 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC=1C=CC=2N(N1)N=C(N2)C(=O)OC(C)C)C2=CC=CC=C2 | C30H35N5O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
product | [6-[3-[4-(diphenylmethoxy)piperidino]propoxy][1,2,4]triazolo[1,5-b]pyridazin-2-yl]carboxylic acid | 1.33 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC=1C=CC=2N(N1)N=C(N2)C(=O)O)C2=CC=CC=C2 | C27H29N5O4
